US07273868B2
A mixture of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-benzylthiopyrimidine (prepared in the above (3)) 108 mg, 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine 57 mg, triethylamine 47 mg and N,N-dimethylacetamide 2.5 ml is stirred at 60° C. for 1 hour. The reaction mixture is diluted with water and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo. The residue is separated with silica gel chromatography (solvent; chloroform:methanol=200:1) to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylthiopyrimidine as a colorless foam, 129 mg.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-benzylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)Cl)SCC2=CC=CC=C2)C=CC1OC | C21H19Cl2N3O3S
reactant | 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine | 57 mg | N=1C=CN2C1CNCC2 | C6H9N3
reactant | triethylamine | 47 mg | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | 2.5 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CC=3N(CC2)C=CN3)SCC3=CC=CC=C3)C=CC1OC | C27H27ClN6O3S
